US07018988B2
(2S,4EZ)-N-[(2RS)-2-hydroxy-2-phenylethyl]-4-(methoxyimino)-1-(3-phenoxybenzoyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 3-phenoxybenzoic acid, and (1RS)-2-amino-1-phenylethanol, the title compound was obtained in 94% purity by HPLC. MS(ESI+): m/z=474.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 3-phenoxybenzoic acid | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | (1RS)-2-amino-1-phenylethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
product | (2S,4EZ)-N-[(2RS)-2-hydroxy-2-phenylethyl]-4-(methoxyimino)-1-(3-phenoxybenzoyl)-2-pyrrolidinecarboxamide | OC(CNC(=O)[C@H]1N(CC(C1)=NOC)C(C1=CC(=CC=C1)OC1=CC=CC=C1)=O)C1=CC=CC=C1 | C27H27N3O5
